US07595312B2
1-cyclopropylmethyl-4-piperidin-4-yl-piperazine (Example 10.4)
1.26 g (20.0 mmol) NaBH3CN were added in 4 batches at RT to a solution of 1.71 g (5.0 mmol) tert. butyl 4-piperazin-1-yl-piperidine-1-carboxylate and 0.75 mL (10.0 mmol) cyclopropanecarbaldehyde in 100 mL of EtOH and the reaction mixture was stirred overnight at RT. The mixture was evaporated down i.vac., the residue was taken up in saturated NaHCO3 solution, extracted exhaustively with EtOAc and the organic phase was dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was purified by chromatography (silica gel, EtOAc/MeOH/NH3 90:10:0.5).

reactant | NaBH3CN | 20.0 mmol, 1.26 g | [BH3-]C#N.[Na+]
reactant | tert. butyl 4-piperazin-1-yl-piperidine-1-carboxylate | 5.0 mmol, 1.71 g | N1(CCNCC1)C1CCN(CC1)C(=O)OC(C)(C)C | C14H27N3O2
reactant | cyclopropanecarbaldehyde | 10.0 mmol, 0.75 mL | C1(CC1)C=O | C4H6O
solvent | EtOH | 100 mL | CCO | C2H6O
product | 1-cyclopropylmethyl-4-piperidin-4-yl-piperazine | C1(CC1)CN1CCN(CC1)C1CCNCC1 | C13H25N3
